US08003654B2
6) Synthesis of cyclopropyl-(6-methoxy-pyridin-2-ylmethyl)-amine
prepared by reaction of 6-methoxypyridine-2-carbaldehyde with cyclopropylamine

reactant | 6-methoxypyridine-2-carbaldehyde | COC1=CC=CC(=N1)C=O | C7H7NO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | cyclopropyl-(6-methoxy-pyridin-2-ylmethyl)-amine | C1(CC1)NCC1=NC(=CC=C1)OC | C10H14N2O
